US04107307
2-Methoxymethyl-4-imidazolemethanol
A 307.2 gm. portion of ethyl 2-methoxyacetimidate hydrochloride [Rule, J. Chem. Soc. 113, 9 (1918)] and 180 gm. of 1,3-dihydroxyacetone in 1 liter of liquid ammonia are reacted as described in Example 3 giving the desired product as an oil. A crystalline picrate salt (m.p. 175°-178° C.) is obtained by heating the oily product and picric acid in water.

reactant | ethyl 2-methoxyacetimidate hydrochloride | Cl.COCC(OCC)=N
reactant | 1,3-dihydroxyacetone | OCC(=O)CO | C3H6O3
reactant | ammonia | N | H3N
product | 2-Methoxymethyl-4-imidazolemethanol | COCC=1NC=C(N1)CO | C6H10N2O2
